US04927926
A solution of 0.9 g (3.2 mmoles) of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 0.7 g (6.4 mmoles) of 3-hydroxyazetidine, 1.6 g (16.0 mmoles) of triethylamine and 15 ml of DMSO is heated to 80° C. for 4 hours. It is allowed to cool, added to a mixture of ice and water, and adjusted to pH 5 giving a precipitate which is filtered and washed with water. The solid is dried under vacuum to yield 0.86 g (80%) of 1-cyclopropyl-6,8-difluoro-7-(3-hydroxy-1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid melting at 286°-288° C. Spectroscopic data are identical to those of method C.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 3.2 mmoles, 0.9 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 3-hydroxyazetidine | 6.4 mmoles, 0.7 g | OC1CNC1 | C3H7NO
reactant | triethylamine | 16.0 mmoles, 1.6 g | C(C)N(CC)CC | C6H15N
reactant | DMSO | 15 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1-cyclopropyl-6,8-difluoro-7-(3-hydroxy-1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.86 g, 80% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(C1)O)F)=O)C(=O)O | C16H14F2N2O4
